US05733913
6-Pyridin-3-yl-pyrido[2,3-d]pyrimidine-2,7-diamine
The procedure of Example 1 was followed to react 3-pyridylacetonitrile and 2,4-diamino-5-pyrimidine-carboxaldehyde to afford the title compound; mp 317°-319° C. (dec).

reactant | 3-pyridylacetonitrile | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-Pyridin-3-yl-pyrido[2,3-d]pyrimidine-2,7-diamine | N1=CC(=CC=C1)C1=CC2=C(N=C(N=C2)N)N=C1N | C12H10N6
